US08664220B2
Step 1: 2-(3-Trifluoromethyl-benzyl)-[1,3,4]oxadiazole
(3-Trifluoromethyl-phenyl)-acetic acid methyl ester (0.720 g, 3.30 mmol) was dissolved in hydrazine (7 mL) and EtOH (15 mL) and heated to 90° C. overnight. Analytical LCMS indicated complete reaction so the mixture was concentrated and azeotroped two time with toluene. The crude material was dissolved in triethylorthoformate and heated to 135° C. for 20 hours then allowed to cool. The reaction mixture was concentrated to afford the title compound.

reactant | (3-Trifluoromethyl-phenyl)-acetic acid methyl ester | 3.30 mmol, 0.720 g | COC(CC1=CC(=CC=C1)C(F)(F)F)=O | C10H9F3O2
reactant | EtOH | 15 mL | CCO | C2H6O
reactant | hydrazine | 7 mL | NN | H4N2
product | 2-(3-Trifluoromethyl-benzyl)-[1,3,4]oxadiazole | FC(C=1C=C(CC=2OC=NN2)C=CC1)(F)F | C10H7F3N2O
